US08080566B1
A 100-mL round-bottom flask was charged with a solution of 9H-carbazole-2-carbaldehyde (3.7 g, 18.97 mmol, 1.00 equiv) in DMF (50 mL). To this was added K2CO3 (5.23 g, 37.90 mmol, 2.00 equiv) followed by addition of bromoethane (10 g, 91.74 mmol, 4.80 equiv). The resulting solution was stirred overnight at room temperature. The reaction progress was monitored by TLC (EA:PE=1:3). Upon completion, the reaction mixture was quenched with water (100 mL). The resulting mixture was extracted with ethyl acetate (3×100 mL), combined organic layers were dried over sodium sulfate and concentrated on a rotary evaporator. The residue was purified by silica gel column chromatography eluted with ethyl acetate/petroleum ether (1:10) affording 9-ethyl-9H-carbazole-2-carbaldehyde as yellow solid (2.6 g, 61%).

reactant | 9H-carbazole-2-carbaldehyde | 18.97 mmol, 3.7 g, 1.00 equiv | C1=C(C=CC=2C3=CC=CC=C3NC12)C=O | C13H9NO
reactant | K2CO3 | 37.90 mmol, 5.23 g, 2.00 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoethane | 91.74 mmol, 10 g, 4.80 equiv | BrCC | C2H5Br
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 9-ethyl-9H-carbazole-2-carbaldehyde | 2.6 g, 61% | C(C)N1C2=CC=CC=C2C=2C=CC(=CC12)C=O | C15H13NO
